US07268231B2
A suspension of 2-amino-4-oxo-4,5-dihydro-imidazole-1-carboxylic acid benzyl ester* (46.62 mg, 0.20 mmol), 2-chlorobenzylbromide (41.0 mg, 0.20 mmol) and K2CO3 (41.4 mg, 0.30 mmol) in acetonitrile (1.5 mL) was heated to reflux under argon for 3 hrs. Cooled to r.t. and the reaction mixture was partitioned between EtOAc and water. The organic layer was dried over Na2SO4 and concentrated to give 2-(2-chloro-benzylamino)-4-methylene-4,5-dihydro-imidazole-1-carboxylic acid benzyl ester as an oil (63.0 mg, 88.2%). * 2-amino-4-oxo-4,5-dihydro-imidazole-1-carboxylic acid benzyl ester was prepared according to the method described by C-H Kwon et al. J. Med. Chem. 1991, 34,1845-1849.

reactant | 2-amino-4-oxo-4,5-dihydro-imidazole-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1C(=NC(C1)=O)N | C11H11N3O3
reactant | 2-chlorobenzylbromide | 0.20 mmol, 41.0 mg | ClC1=C(CBr)C=CC=C1 | C7H6BrCl
reactant | K2CO3 | 0.30 mmol, 41.4 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | acetonitrile | 1.5 mL | C(C)#N | C2H3N
product | 2-(2-chloro-benzylamino)-4-methylene-4,5-dihydro-imidazole-1-carboxylic acid benzyl ester | 63.0 mg, 88.2% | C(C1=CC=CC=C1)OC(=O)N1C(=NC(C1)=C)NCC1=C(C=CC=C1)Cl | C19H18ClN3O2
